US08466284B2
In a 100 mL round-bottomed flask, methyl 6-(3,3-diethoxyprop-1-ynyl)-5-methyl-3-oxo-4-(3-(trifluoromethyl)phenyl)-3,4-dihydropyrazine-2-carboxylate (SM2, 1.136 g, 2.59 mmol) and 4-hydrazinylbenzonitrile hydrochloride (0.508 g, 3.00 mmol) were stirred in methanol (25 mL) and water (2.5 ml) under air at 65° C. After 1 h, the mixture was allowed to cool to 45° C., water (50 ml) was added and the mixture then cooled to RT. After stirring for 30 minutes, the solid was filtered off, washed with water (100 ml) and then air dried to give methyl 6-(3-(2-(4-cyanophenyl)hydrazono)prop-1-ynyl)-5-methyl-3-oxo-4-(3-(trifluoromethyl)phenyl)-3,4-dihydropyrazine-2-carboxylate (1.18 g, 95%) as a yellow solid.

reactant | methyl 6-(3,3-diethoxyprop-1-ynyl)-5-methyl-3-oxo-4-(3-(trifluoromethyl)phenyl)-3,4-dihydropyrazine-2-carboxylate | 2.59 mmol, 1.136 g | C(C)OC(C#CC1=C(N(C(C(=N1)C(=O)OC)=O)C1=CC(=CC=C1)C(F)(F)F)C)OCC | C21H21F3N2O5
reactant | 4-hydrazinylbenzonitrile hydrochloride | 3.00 mmol, 0.508 g | Cl.N(N)C1=CC=C(C#N)C=C1
reactant | water | 2.5 ml | O | H2O
reactant | water | 50 ml | O | H2O
solvent | methanol | 25 mL | CO | CH4O
product | methyl 6-(3-(2-(4-cyanophenyl)hydrazono)prop-1-ynyl)-5-methyl-3-oxo-4-(3-(trifluoromethyl)phenyl)-3,4-dihydropyrazine-2-carboxylate | 1.18 g, 95% | C(#N)C1=CC=C(C=C1)NN=CC#CC1=C(N(C(C(=N1)C(=O)OC)=O)C1=CC(=CC=C1)C(F)(F)F)C | C24H16F3N5O3
